US04963542
Production of sodium 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-hydroxymethyl-3-cephem-4-carboxylate (syn-isomer)
In 5 ml of there was dissolved 0.57 g of 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-(mandelyloxymethyl)-3-cephem-4-carboxylic acid hydrochloride (syn-isomer) together with 0.17 g of sodium hydrogen carbonate and, while the mixed solution was stirred under ice-cooling, 0.55 ml of 2N-sodium hydroxide was added. The mixture was stirred at that temperature for 3 hours and, then, at room temperature for 1 hour. The reaction mixture was subjected to column chromatography on polystyrene resin (Amberlite XAD-2, Rohm and Haas Co.), development being carried out with water. The fractions containing the desired product were pooled and lyophilized. By the above procedure there was obtained 0.19 g of the captioned compound.

reactant | sodium hydrogen carbonate | 0.17 g | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-(mandelyloxymethyl)-3-cephem-4-carboxylic acid hydrochloride | 0.57 g | Cl.N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C(O)C2=CC=CC=C2)=O)C(=O)O)C1=O)=NO
product | sodium 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-hydroxymethyl-3-cephem-4-carboxylate | N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O)=NO.[Na+] | InChI=1S/C13H13N5O6S2.Na/c14-13-15-5(3-26-13)6(17-24)9(20)16-7-10(21)18-8(12(22)23)4(1-19)2-25-11(7)18;/h3,7,11,19,24H,1-2H2,(H2,14,15)(H,16,20)(H,22,23);/q;+1/p-1/t7?,11-;/m1./s1
